* Z:\mnt\spice-netlists\LT3010.asc
V1 IN 0 30
R1 OUT N001 412K
R2 0 N001 1Meg
C2 OUT 0 1µ
C4 IN 0 1µ
Rload OUT 0 36
XU1 OUT N001 MP_01 0 IN MP_02 MP_03 IN LT3010
C1 OUT 0 220p
.tran 10m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2007 Linear Technology Inc. All rights reserved.
* LT3010 - 50mA, 3V to 80V Low Dropout µPower Linear Regulator\nInput: 30V       Output: 1.8V @ 50mA
.lib LT3010.lib
.backanno
.end
